US09238640B2
Preparation of 2-(2,6-Dimethylpyridin-4-yl)-7-(2-methoxyethoxy)-5-(2-(pyrrolidin-1-yl)ethoxy)quinazolin-4(3H)-one
To a solution of 2-methoxy-ethanol (1.35 g, 17.8 mmol) in DMF (10 mL) was added sodium hydride (60% suspension in mineral oil, 0.36 g, 8.89 mmol) in small portions and the reaction mixture was stirred at room temperature for 30 minutes. To this mixture was added 2-(2,6-dimethyl-pyridin-4-yl)-7-fluoro-5-(2-pyrrolidin-1-yl-ethoxy)-3H-quinazolin-4-one (0.34 g, 0.89 mmol) and the reaction mixture was stirred at 70-80° C. for 16 h, then cooled to room temperature. Water (10 mL) was added, and the mixture was neutralized to pH approximately 6 with acetic acid. Solvent was evaporated; the residue was purified by the Simpliflash system (2-5% 7.0M ammonia in methanol and CH2Cl2 as eluent). The compound was further purified by preparative HPLC to give the title compound as a yellow solid. Yield: 72 mg (18%). MP 60.4-62.3° C. 1H NMR (400 MHz, CDCl3): δ 10.23 (br s, 1H), 8.50 (br s, 1H), 7.60 (s, 2H), 6.76 (br s, 1H), 6.43 (br s, 1H), 4.35 (m., 2H), 4.21 (m, 2H), 3.79 (s, 3H), 3.47-3.38 (m, 6H), 2.64 (s, 6H), 1.99 (m, 4H). MS (ES) m/z: 437.09 (M−1) (100%).

reactant | 2-methoxy-ethanol | 17.8 mmol, 1.35 g | COCCO | C3H8O2
reactant | sodium hydride | 8.89 mmol, 0.36 g | [H-].[Na+]
reactant | 2-(2,6-dimethyl-pyridin-4-yl)-7-fluoro-5-(2-pyrrolidin-1-yl-ethoxy)-3H-quinazolin-4-one | 0.89 mmol, 0.34 g | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OCCN1CCCC1)F)C | C21H23FN4O2
reactant | Water | 10 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2,6-Dimethylpyridin-4-yl)-7-(2-methoxyethoxy)-5-(2-(pyrrolidin-1-yl)ethoxy)quinazolin-4(3H)-one | CC1=NC(=CC(=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OCCN1CCCC1)OCCOC)C | C24H30N4O4
